US05110820
A solution of 11.2 g of methyl 6-phthalimidohexyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 10.1 g of hydrazine monohydrate in 330 ml of 95% ethanol (containing water of 5%) was refluxed for 4 hours under heating. After cooling the reaction solution, the solution was concentrated under reduced pressure. The residue was extracted with chloroform, and the extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated. Crude crystal were recrystallized from chloroform-ether to provide 2.6 g of 6-aminohexyl methyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | methyl 6-phthalimidohexyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 11.2 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)C(F)(F)F)C(=O)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C31H31F3N2O6
reactant | hydrazine monohydrate | 10.1 g | O.NN
solvent | ethanol | 330 ml | C(C)O | C2H6O
product | 6-aminohexyl methyl 2,6-dimethyl-4-(m-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 2.6 g | CC=1NC(=C(C(C1C(=O)OCCCCCCN)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC)C | C23H29F3N2O4
